US07807672B2
Preparation of 1-tert-butoxycarbonylmethyl-3-hydroxymethyl-pyrrolidine-3-carboxylic acid ethyl ester
Tetrabutylammonium fluoride (1.8 ml, 1 M in THF) was added to 1-tert-butoxycarbonylmethyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (726 mg, 1.8 mmol). The reaction solution was stirred for half hour and purified by column chromatography using solution of ethyl acetate in hexanes (1:1), then ethyl acetate to provide the title product (350 mg, 68%).

reactant | Tetrabutylammonium fluoride | 1 M, 1.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-tert-butoxycarbonylmethyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 1.8 mmol, 726 mg | C(C)OC(=O)C1(CN(CC1)CC(=O)OC(C)(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H39NO5Si
product | 1-tert-butoxycarbonylmethyl-3-hydroxymethyl-pyrrolidine-3-carboxylic acid ethyl ester | 350 mg, 68% | C(C)OC(=O)C1(CN(CC1)CC(=O)OC(C)(C)C)CO | C14H25NO5
